US09238639B2
Methyl(6-((1,3-dimethyl-1H-pyrazol-5-yl)methoxy)-4-methyl-1-benzothiophen-3-yl)acetate
To a mixture of methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate (150 mg) and DMF (2 mL) were added 5-(chloromethyl)-1,3-dimethyl-1H-pyrazole (101 mg) and K2CO3 (175 mg) at room temperature. The mixture was stirred at room temperature for 3 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane). The product was crystallized from Et2O-hexane to give the title compound (155 mg).

reactant | methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate | 150 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C)=O | C12H12O3S
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | 5-(chloromethyl)-1,3-dimethyl-1H-pyrazole | 101 mg | ClCC1=CC(=NN1C)C | C6H9ClN2
reactant | K2CO3 | 175 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | Methyl(6-((1,3-dimethyl-1H-pyrazol-5-yl)methoxy)-4-methyl-1-benzothiophen-3-yl)acetate | 155 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=CC(=NN2C)C)C)=O | C18H20N2O3S
